US08138377B2
(4) (1S,5S)-1-(1-naphthyl)bicyclo[3.1.0 ]hexan-3-one
(1S,5S)-3-Benzenesulfonyl-1-(1-naphthyl)-3-methylsulfanyl-bicyclo[3.1.0]hexane (3 g, 7.6 mmol), methanol (18 mL) and concentrated hydrochloric acid (5.4 mL) were heated to reflux for 7 hours. The reaction was monitored by TLC (ethyl acetate/hexane (20:80)).The reaction mixture was concentrated under reduced pressure to remove methanol. The pH of the reaction mass was adjusted to 8-9 with saturated sodium bicarbonate solution. The aqueous layer was extracted with diethyl ether (300 mL). The organic layer was washed with water, dried over anhydrous sodium sulphate, filtered and evaporated under reduced pressure to yield 3 g of crude oil, which was purified by preparative HPLC to give 1 g (62%) of 99% pure product. 1H NMR δ(300 MHz,CDCl3): 0.75-0.78 (1H,t, J=4 Hz), 1.37 (1H,m), 1.98-2.04 (1H,m), 2.49-2.55 (1H,d ,J=18 Hz), 2.77-2.79 (2H,d,J=6 Hz), 3.03-3.11 (2H,dd,J=18,6 Hz), 7.39-7.44 (1H,m), 7.48-7.57 (3H,m),7.76-7.78 (1H,d,J=6 Hz), 7.87-7.90 (1H,m), 8.12-8.15 (2H,d ,J=9 Hz).

reactant | (1S,5S)-3-Benzenesulfonyl-1-(1-naphthyl)-3-methylsulfanyl-bicyclo[3.1.0]hexane | 7.6 mmol, 3 g | C1(=CC=CC=C1)S(=O)(=O)C1(C[C@]2(C[C@H]2C1)C1=CC=CC2=CC=CC=C12)SC | C23H22O2S2
reactant | methanol | 18 mL | CO | CH4O
reactant | hydrochloric acid | 5.4 mL | Cl | ClH
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | (1S,5S)-1-(1-naphthyl)bicyclo[3.1.0 ]hexan-3-one | 99% | C1(=CC=CC2=CC=CC=C12)[C@]12CC(C[C@@H]2C1)=O | C16H14O
